US05576340
Methyl 4-(2-oxopropoxy)phenylacetate
A mixture comprising 74.6 g of methyl 4-hydroxyphenylacetate, 92.2 g of bromoacetone, 125 g of potassium carbonate and 750 ml of dimethylformamide was stirred at room temperature for 1 day. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure. The resulting concentrate was mixed with water and then extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride and dried over anhydrous sodium sulfate; the solvent was then removed by distillation under reduced pressure. The residue was purified by column chromatography through silica gel, using a 1:8 by volume mixture of ethyl acetate and benzene as the eluent, to give the title compound having an Rf=0.43 (thin layer chromatography over silica gel, using a 1:7 by volume mixture of ethyl acetate and benzene as the developing solvent).

reactant | methyl 4-hydroxyphenylacetate | 74.6 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | bromoacetone | 92.2 g | BrCC(C)=O | C3H5BrO
reactant | potassium carbonate | 125 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 750 ml | CN(C=O)C | C3H7NO
product | Methyl 4-(2-oxopropoxy)phenylacetate | O=C(COC1=CC=C(C=C1)CC(=O)OC)C | C12H14O4
